US06331538B1
Ethyl 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylate
A solution of ethyl 2-chloro-5-fluoro-6pyrrolidinyl-3-pyridinecarboxylate (Example C-2, 500 mg, 1.83 mmol) and cyclopropylamine (2 mL) in DMA (1 mL) was sealed in a pressure bottle and heated at 90° C. for 1 day. The reaction mixture was diluted with dichloromethane (40 mL), washed with water and dried on sodium sulfate. Flash chromatography on a silica gel column using dichloromethane/hexane (3:2) as eluent provided 270 mg of the title compound as an oil.

reactant | ethyl 2-chloro-5-fluoro-6pyrrolidinyl-3-pyridinecarboxylate | 1.83 mmol, 500 mg | ClC1=NC(=C(C=C1C(=O)OCC)F)N1CCCC1 | C12H14ClFN2O2
reactant | cyclopropylamine | 2 mL | C1(CC1)N | C3H7N
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Ethyl 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylate | 270 mg | C1(CC1)NC1=NC(=C(C=C1C(=O)OCC)F)N1CCCC1 | C15H20FN3O2
